US06956047B1
1-[4-(1-Ethyl-propylamino)-6-methyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-3-yl]-ethanol
The title compound was prepared by reacting 4-(1-ethyl-propylamino)-6-methyl-2-(2,4,6-trimethyl-phenoxy)-pyridine-3-carbaldehyde with methylithium lithium in THF at −78° C. The desired product was isolated after silica gel column chromatography to give 60.1% of colorless oil. 1H NMR(CDCl3) d 6.87(s, 2H), 6.06(s, 1H), 5.7(q, 1H), 3.3(m, 1H), 2.29(s, 3H), 2.12(s, 6H), 2.069s, 3H), 1.4-1.7(m, 4H), 1.59(d, 3H), 0.8-1.0(m, 6H) ppm.

reactant | 4-(1-ethyl-propylamino)-6-methyl-2-(2,4,6-trimethyl-phenoxy)-pyridine-3-carbaldehyde | C(C)C(CC)NC1=C(C(=NC(=C1)C)OC1=C(C=C(C=C1C)C)C)C=O | C21H28N2O2
reactant | lithium | [Li] | Li
reactant | THF | C1CCOC1 | C4H8O
product | 1-[4-(1-Ethyl-propylamino)-6-methyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-3-yl]-ethanol | C(C)C(CC)NC1=C(C(=NC(=C1)C)OC1=C(C=C(C=C1C)C)C)C(C)O | C22H32N2O2
